US07863291B2
Step B: 4-Isothiocyanato-6-(pyridin-3-yl)pyrimidine
To a solution of 1,1′-thiocarbonyldipyridin-2(1H)-one (0.682 g, 2.94 mmol) in dichloromethane/N,N-dimethylformamide at room temperature was added 6-(pyridin-3-yl)pyrimidin-4-amine (0.337 g, 1.957 mmol). The mixture was heated at 60° C. for 18 hours. LC/MS showed the desired product peak as the major peak. The deep orange mixture was purified by silica gel chromatography (1-40% ethyl acetate-hexanes) to afford 4-isothiocyanato-6-methoxypyrimidine (0.12 g, 0.56 mmol, 28.6% yield) as an orange oil.

reactant | 1,1′-thiocarbonyldipyridin-2(1H)-one | 2.94 mmol, 0.682 g | C(=S)(N1C(C=CC=C1)=O)N1C(C=CC=C1)=O | C11H8N2O2S
reactant | 6-(pyridin-3-yl)pyrimidin-4-amine | 1.957 mmol, 0.337 g | N1=CC(=CC=C1)C1=CC(=NC=N1)N | C9H8N4
solvent | dichloromethane N,N-dimethylformamide | ClCCl.CN(C=O)C
product | 4-Isothiocyanato-6-(pyridin-3-yl)pyrimidine | N(=C=S)C1=NC=NC(=C1)C=1C=NC=CC1 | C10H6N4S
